US05047411
A mixture of 2-acetamido-4-[2-(4-nitrophenyl)vinyl]pyrimidine (8.52 g) in ethanol (200 ml) and tetrahydrofuran (100 ml) was hydrogenated over 10% palladium on carbon (2 g) under atmospheric pressure of hydrogen gas for 6 hours at ambient temperature. The catalyst was removed by filtration and the filtrate was evaporated in vacuo to give a crystalline residue, which was recrystallized from a mixture of ethyl acetate and diisopropyl ether to give 2-acetamido-4-[2-(4-aminophenyl)ethyl]pyrimidine (7.0 g).

reactant | 2-acetamido-4-[2-(4-nitrophenyl)vinyl]pyrimidine | 8.52 g | C(C)(=O)NC1=NC=CC(=N1)C=CC1=CC=C(C=C1)[N+](=O)[O-] | C14H12N4O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 2 g | [Pd] | Pd
product | 2-acetamido-4-[2-(4-aminophenyl)ethyl]pyrimidine | 7.0 g | C(C)(=O)NC1=NC=CC(=N1)CCC1=CC=C(C=C1)N | C14H16N4O
